US08981085B2
(R)-tert-Butyl piperidin-3-ylcarbamate (456 mg, 2.28 mmol) and N,N-diispropylethylamine (294 mg, 0.396 mL, 2.28 mmol) were added to a suspension of (R)—N-(4-chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide (244 mg, 0.759 mmol) in n-BuOH (3 mL). The resulting mixture was heated in a sealed tube under a nitrogen atmosphere at 160° C. for 24 hours. The cooled mixture was diluted with water and extracted with EtOAc (3×20 mL). The combined organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated to an oil, which was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 15-80% CH3CN/water, 25CV) to give tert-butyl (R)-1-(3-((R)-2-methoxypropanamido)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (151 mg, 41%) as a solid. LCMS (APCI+) m/z 386.1, 486.1 (M+H)+, Retention time=3.85 minutes.

reactant | (R)-tert-Butyl piperidin-3-ylcarbamate | 2.28 mmol, 456 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | (R)—N-(4-chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxypropanamide | 0.759 mmol, 244 mg | ClC1=C2C(=NC=C1C(F)(F)F)NC=C2NC([C@@H](C)OC)=O | C12H11ClF3N3O2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
solvent | water | O | H2O
product | tert-butyl (R)-1-(3-((R)-2-methoxypropanamido)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 151 mg, 41% | CO[C@@H](C(=O)NC1=CNC2=NC=C(C(=C21)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O)C(F)(F)F)C | C22H30F3N5O4
